US04450149
3-p-Tolylthio-2-methyl-1-bromopropane.
3-p-Tolylthio-2-methylpropene (15 mmol, 2.67 g) was hydroborated with BH3 -THF (5 mmol) at 0°. The brominations were carried out as described in the general procedure. The product was isolated via chromatography; yield 2.67 g (61%); [90% via Br2 reactions]; m.s. 257 and 259 [M-1] (calcd. 258 and 260); NMR (CDCl3) δ 1.0 (d, 3H, --CH3), 1.6 (m, 1H, --CH--), 2.2 (s,2H, ArCH3), 3.4 (m, 2H, --CH2Br), 3.2 (d, 2H, --SCH2), 7.0 (A'2X'2, 4H, ArH).

reactant | 3-p-Tolylthio-2-methylpropene | 15 mmol, 2.67 g | C1(=CC=C(C=C1)SCC(=C)C)C | C11H14S
reactant | THF | 5 mmol | C1CCOC1 | C4H8O
reactant | Br2 | BrBr | Br2
product | 3-p-Tolylthio-2-methyl-1-bromopropane | C1(=CC=C(C=C1)SCC(CBr)C)C | C11H15BrS
